US07220759B2
By the reaction in the same manner as in Example 1a, using N,N-diethyl-2,3-dimethylbenzamide (4.975 g) and (R)-3-(2-hydroxymethylpyrrolidin-1-yl)propionitrile (2.0 g), (R)-3-[2-(2-hydroxymethylpyrrolidin-1-yl)ethyl]-2H-isoquinolin-1-one (408.4 mg) was obtained.

reactant | N,N-diethyl-2,3-dimethylbenzamide | 4.975 g | C(C)N(C(C1=C(C(=CC=C1)C)C)=O)CC | C13H19NO
reactant | (R)-3-(2-hydroxymethylpyrrolidin-1-yl)propionitrile | 2.0 g | OC[C@@H]1N(CCC1)CCC#N | C8H14N2O
product | (R)-3-[2-(2-hydroxymethylpyrrolidin-1-yl)ethyl]-2H-isoquinolin-1-one | 408.4 mg | OC[C@@H]1N(CCC1)CCC=1NC(C2=CC=CC=C2C1)=O | C16H20N2O2
